US06693123B2
4-Hydroxymethyl-2-(2-methylphenyl)benzoic Acid
To a solution of 4-hydroxymethyl-2-(2-methylphenyl)benzoic acid methyl ester (73 g, 285 mmol), prepared as in example 1075D, in EtOH (300 mL) was added an aqueous 4N NaOH solution (350 mL, 1.4 mol), and mixture heated at 80° C. overnight. Reaction concentrated in vacuo, and residue mixed with water (300 mL). Aqueous mixture acidified to pH 6 using aqueous 3N HCl, and acid product extracted out with CHCl3 (3×200 mL). Organic extracts dried with Na2SO4, filtered, and concentrated in vacuo to produce a white solid (69 g, 100% crude yield). m/e (DCI) 243 (MH+).

reactant | 4-hydroxymethyl-2-(2-methylphenyl)benzoic acid methyl ester | 285 mmol, 73 g | COC(C1=C(C=C(C=C1)CO)C1=C(C=CC=C1)C)=O | C16H16O3
reactant | NaOH | 1.4 mol, 4N, 350 mL | [OH-].[Na+]
solvent | EtOH | 300 mL | CCO | C2H6O
product | 4-Hydroxymethyl-2-(2-methylphenyl)benzoic Acid | OCC1=CC(=C(C(=O)O)C=C1)C1=C(C=CC=C1)C | C15H14O3
